US05045556
18.6 g (142 mmol) of oxalic acid monomethylamide monoethyl ester are dissolved under a nitrogen atmosphere in 63 ml of trichloromethane, and 59 ml of a 20% solution of phosgene in toluene are added thereto. At a temperature of 5°-10°, 9.2 ml of pyridine are added dropwise. The reaction mixture is then stirred for 2 hours at 0°, nitrogen being blown through the reaction mixture during the second hour. 17.6 g (95 mmol) of 2,6-difluorophenylacetic acid hydrazide are then added. The reaction mixture is subsequently stirred for 40 minutes at room temperature, then poured onto ice-water, acidified with concentrated hydrochloric acid and extracted three times with ether. The acidic aqueous phase is rendered alkaline with concentrated ammonia solution and extracted by shaking three times with dichloromethane. The combined dichloromethane phases are washed twice with water, dried over magnesium sulphate and concentrated by evaporation. The residue is taken up in 160 ml of xylene and stirred under reflux for 9 hours. The reaction mixture is then concentrated and chromatographed over silica gel using ethyl acetate as eluant. The eluate is concentrated by evaporation and the crystalline residue is recrystallised from ethyl acetate/ether. 5-(2,6-difluorobenzyl)-4-methyl-4H-1,2,4-triazole-3-carboxylic acid ethyl ester of m.p. 127°-128° is obtained.

reactant | oxalic acid monomethylamide monoethyl ester | 142 mmol, 18.6 g | C(C)OC(C(=O)NC)=O | C5H9NO3
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | 2,6-difluorophenylacetic acid hydrazide | 95 mmol, 17.6 g | FC1=C(C(=CC=C1)F)CC(=O)NN | C8H8F2N2O
reactant | hydrochloric acid | Cl | ClH
solvent | trichloromethane | 63 ml | ClC(Cl)Cl | CHCl3
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | pyridine | 9.2 ml | N1=CC=CC=C1 | C5H5N
product | 5-(2,6-difluorobenzyl)-4-methyl-4H-1,2,4-triazole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=NN=C(N1C)CC1=C(C=CC=C1F)F | C13H13F2N3O2
